US04395406
1-(2-Hydroxyethyl)-4-methylthio-5-fluoropyrimid-2-one
Ethylene bromohydrin (0.023 mol) was added to a solution of the potassium salt of 4-methylthio-5-fluoropyrimid-2-one (0.015 mol) in dimethylformamide (65 ml) and the reaction mixture was stirred at room temperature for 24 h before evaporation at reduced pressure (1 mm Hg). The residue was extracted with chloroform, the solution was washed with aqueous 2 N NaOH, with water and was dried (MgSO4) before evaporation. The solid residue was recrystallized from acetone; yield 77%, m.p. 161°-162° C. (Found: C, 41.36; H, 4.62. Calc. for C7H9FN2O2S: C, 41.17; H, 4.44).

reactant | Ethylene bromohydrin | 0.023 mol | C(CO)Br | C2H5BrO
reactant | potassium | [K] | K
reactant | 4-methylthio-5-fluoropyrimid-2-one | 0.015 mol | CSC1=NC(NC=C1F)=O | C5H5FN2OS
solvent | dimethylformamide | 65 ml | CN(C=O)C | C3H7NO
product | 1-(2-Hydroxyethyl)-4-methylthio-5-fluoropyrimid-2-one | yield 77% | OCCN1C(N=C(C(=C1)F)SC)=O | C7H9FN2O2S
